US06069163
EXAMPLE 8 Step A. Preparation of 1-Boc-2-Cbz-hexahydropyridazine
1.5 g (37.5 mmol) of 60% sodium hydride in oil was suspended in 50 mL of DMF to which was added 5.0 g (18.7 mmol) of 1-Boc-2-Cbz-hydrazine dissolved in 20 mL of dry DMF slowly over 30 minutes. The reaction mixture was stirred for 1 hour until H2 evolution had ceased. To this mixture was added 2.24 mL (18.77 mmol) of 1,4-dibromobutane neat. The reaction mixture was stirred at room temperature over 3 days. The mixture was concentrated in vacuo and the residue was suspended in 150 mL of EtOAc. The mixture was washed with water twice, 5% citric acid twice, saturated aqueous NaHCO3 solution , water and brine. The solution was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography over silica gel eluting with 30% EtOAc/hexanes to give the desired product as a white solid. 1H-NMR (CDCl3, 400 MHz):1.45 (bs, 9H); 1.62 (bm, 4H); 2.90 (bs, 2H); 4.15 (bm, 2H); 5.00-5.30 (m, 2H); 7.20-7.40 (bm, 5H).

reactant | sodium hydride | 37.5 mmol, 1.5 g | [H-].[Na+]
reactant | 1-Boc-2-Cbz-hydrazine | 18.7 mmol, 5.0 g | C(=O)(OC(C)(C)C)NNC(=O)OCC1=CC=CC=C1 | C13H18N2O4
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-Boc-2-Cbz-hexahydropyridazine | C(=O)(OC(C)(C)C)N1N(CCCC1)C(=O)OCC1=CC=CC=C1 | C17H24N2O4
